US08623905B2
To a solution of N-o-tolylpivalamide (30.0 g, 159 mmol) in dry THE (100 mL) was added dropwise n-BuLi (2.5 M in hexane, 190 mL) at 15° C. After addition, the mixture was stirred overnight at 15° C. The mixture was cooled in an ice-water bath and treated with saturated NH4Cl. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated in vacuum. The residue was purified by column chromatography on silica gel to give 2-tert-butyl-1H-indole (24 g, 88%). 1H NMR (300 MHz, CDCl3) δ 7.99 (br. s, 1H), 7.54 (d, J=7.2 Hz, 1H), 7.05 (d, J=7.8 Hz, 1H), 7.06-7.13 (m, 2H), 6.26 (s, 1H), 1.39 (s, 9H).

reactant | N-o-tolylpivalamide | 159 mmol, 30.0 g | C1(=C(C=CC=C1)NC(C(C)(C)C)=O)C | C12H17NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | n-BuLi | 2.5 M, 190 mL | [Li]CCCC
product | 2-tert-butyl-1H-indole | 24 g, 88% | C(C)(C)(C)C=1NC2=CC=CC=C2C1 | C12H15N
